* Passivizer Netlist 08: Rickenbacker 4003 Bridge (4.7nF HPF)
* Target: High-Output Single-Coil with Vintage 4.7nF Series HPF
* Models Chris Squire / Geddy Lee / Tool pick aggression
.options plotwinsize=0 numdgt=7

* 1. Audio Source (Pre-filtered NAM Training Track)
V_in in 0 wavefile="v1_1_1_aperture.wav"

* 2. Pickup Coils (Rickenbacker High-Output Bridge Coil)
L_coil in node1 3.8
R_dc node1 node2 8.4k
R_eddy in node2 140k
C_coil node2 0 90p

* 3. Rickenbacker Vintage High-Pass Series Capacitor (Cuts sub-mud below 150Hz)
C_rick node2 node_hpf 4.7n

* 4. Dunlop 500k Super Pot (Volume @ 100%)
R_pot_top node_hpf node3 10
R_pot_bot node3 0 500k

* 5. Dunlop Hybrid Treble Bleed (Lug 3 to Lug 2)
C_tb node_hpf tb_mid 1.0n
R_tb_par node_hpf tb_mid 150k
R_tb_ser tb_mid node3 20k

* 6. Instrument Cable Load (15-ft cable ~750pF)
C_cable node3 0 750p

* 7. Darkglass Anagram Input Stage (1 M-Ohm || 30pF)
R_anagram node3 0 1Meg
C_anagram node3 0 30p

* 8. Transient Execution (48 kHz sample interval)
.tran 0 180 0 20.8333u

* 9. Output Audio Export for NAM Training
.wave "out_08_rickenbacker_bridge_hpf.wav" 24 48000 V(node3)
.end
